US07247628B2
4-Benzyl-2-[5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine (5A-1)
The suspension of 2-[benzyl-(2-hydroxy-ethyl)-amino]-1-[5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-ethanol 2A-3 (150 mg, 0.3 mmol) in 48% hydrobromic acid (0.3 ml) was heated to 100° C. for 2 hours. After the reaction was complete, the reaction mixture was cooled to room temperature and partitioned with ethyl acetate and saturated NaHCO3. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (silica gel, 40% ethyl acetate/hexanes) to give the title compound 5A-1 (77 mg).

reactant | 2-[benzyl-(2-hydroxy-ethyl)-amino]-1-[5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-ethanol | 0.3 mmol, 150 mg | C(C1=CC=CC=C1)N(CC(O)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)CCO | C27H27Cl2N3O2
solvent | hydrobromic acid | 0.3 ml | Br | BrH
product | 4-Benzyl-2-[5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazol-3-yl]-morpholine | C(C1=CC=CC=C1)N1CC(OCC1)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C27H25Cl2N3O
